US07906517B2
To tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4′-fluoro-5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (129 mg) is added a 4N-hydrogen chloride/dioxane solution (3 ml) and the mixture is stirred at room temperature for 7 hours. To the reaction solution are added a saturated aqueous sodium hydroxide solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4′-fluoro-5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid (100 mg). MS (m/z): 740 [M+H]+

reactant | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4′-fluoro-5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 129 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)OC)C2=C(C=C(C(=C2)C(C)C)F)OC)C=C(C1)C(F)(F)F)(F)F | C40H44F7N3O6
reactant | hydrogen chloride dioxane | 3 ml | Cl.O1CCOCC1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4′-fluoro-5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid | 100 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=C(C(=C2)OC)OC)C2=C(C=C(C(=C2)C(C)C)F)OC)C=C(C1)C(F)(F)F)(F)F | C36H36F7N3O6
